US07964608B2
4-Chloro-quinoline-3-carboxylic acid ethyl ester (125 mg, 0.53 mmol) was treated with cyclopentylamine following general procedure B to afford 4-Cyclopentylamino-quinoline-3-carboxylic acid ethyl ester (110 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid using general procedure D and then transformed into the corresponding ethylamide (80 mg) following general procedure E. The above ethylamide (0.28 mmol) was subjected to reaction with methyl chloroformate according to general procedure F to furnish 1-cyclopentyl-3-ethyl-1H-pyrimido[5,4-c]quinoline-2,4-dione (15 mg). LCMS: m/z 310 [M+1]+.

reactant | 4-Chloro-quinoline-3-carboxylic acid ethyl ester | 0.53 mmol, 125 mg | C(C)OC(=O)C=1C=NC2=CC=CC=C2C1Cl | C12H10ClNO2
reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
product | 4-Cyclopentylamino-quinoline-3-carboxylic acid ethyl ester | 110 mg | C(C)OC(=O)C=1C=NC2=CC=CC=C2C1NC1CCCC1 | C17H20N2O2
